US07211573B2
c) 2-Hydroxy-2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid
To a solution of 2.91 g (9.93 mmol) 2-hydroxy-2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid ethyl ester in 50 ml of tetrahydrofurane were added 0.42 g (9,92 mmol) of lithium hydroxide in 20 ml of water and the mixture was stirred overnight at room temperature. After concentration in vacuo water (50 ml) was added and the mixture was acidified to pH 1. Extraction with ethylacetate gave 2.46 g (94%) of the title compound as a solid, MS m/e (%): 263.9 (M−H, 100).

reactant | 2-hydroxy-2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid ethyl ester | 9.93 mmol, 2.91 g | C(C)OC(C(C(=O)NCC(C(F)(F)F)(F)F)(C)O)=O | C9H12F5NO4
reactant | lithium hydroxide | 9,92 mmol, 0.42 g | [OH-].[Li+]
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 2-Hydroxy-2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid | 2.46 g, 94% | OC(C(=O)O)(C(=O)NCC(C(F)(F)F)(F)F)C | C7H8F5NO4
